* Z:\mnt\spice-netlists\LTM4677_LTM4650_DC2481A-B_.asc
C1 IN 0 10µ x4
V1 IN 0 12
R1 N002 N003 10K
C2 OUT 0 100µ x5
C3 N012 N013 4700p
Iload OUT 0 PULSE(93 140 1.4m 5u 5u .3m .6m)
C4 IN 0 10µ x4
C5 N015 0 4.7µ
R2 0 N014 80.6K
C6 IN 0 10µ x4
C7 IN 0 10µ x4
XU1 OUT 0 N007 N009 N012 N008 N010 N001 IN NC_01 OUT N008 N010 N003 N003 NC_02 NC_03 NC_04 NC_05 NC_06 NC_07 NC_08 NC_09 IN N002 N012 OUT NC_10 N005 OUT N007 N009 N004 0 IN NC_11 NC_12 NC_13 N006 MP_14 0 LTM4677 VIN_ON=5.5 VIN_OFF=5 Vout_0=1.0 Vout_1=1.0 Ilim0_range=1 Ilim1_range=1 OC_limit0=1 OC_limit1=1 Mode_ll=2 Fault_response=0 Retry_delay=.1m Freq=350K PHs_0=90 PHs_1=270 Ton0_delay=.3m Ton0_rise=.5m Ton1_delay=.3m Ton1_rise=.5m Toff0_delay=.2m Toff0_fall=.3m Toff1_delay=.2m Toff1_fall=.3m Vout0_range=0 Vout1_range=0
C8 OUT 0 100µ x4
C9 OUT 0 470µ x10
C10 OUT 0 100µ x2
C11 OUT 0 100µ x2
C12 OUT 0 100µ x2
C13 OUT 0 100µ x2
C14 OUT 0 100µ x2
C15 OUT 0 100µ x2
XU2 0 N019 N018 0 N018 N019 0 OUT NC_15 NC_16 NC_17 NC_18 N003 OUT NC_19 NC_20 NC_21 0 N017 MP_22 MP_23 MP_24 MP_25 NC_26 N015 IN MP_27 MP_28 MP_29 MP_30 N016 N022 0 N021 N014 MP_31 MP_32 N003 LTM4650
XU3 0 N019 N018 0 N018 N019 0 OUT NC_33 NC_34 NC_35 NC_36 N003 OUT NC_37 NC_38 NC_39 0 N026 MP_40 MP_41 MP_42 MP_43 NC_44 N024 IN MP_45 MP_46 MP_47 MP_48 N025 N027 0 N022 N023 MP_49 MP_50 N003 LTM4650
XU4 0 N019 N018 0 N018 N019 0 OUT NC_51 NC_52 NC_53 NC_54 N003 OUT NC_55 NC_56 NC_57 0 N031 MP_58 MP_59 MP_60 MP_61 NC_62 N029 IN MP_63 MP_64 MP_65 MP_66 N030 NC_67 NC_68 N027 N028 MP_69 MP_70 N003 LTM4650
R3 N004 N021 200
M§Q1 N021 N001 0 0 2N7002
R4 N004 N018 60.4K
R5 N018 0 8.25K
R6 N001 N002 10K
XU5 N012 N011 N004 0 N011 LT6220
R7 N011 N020 20K
R8 N020 0 100K
XU6 N020 N019 N004 0 N019 LT6220
R9 N023 0 80.6K
R10 N028 0 80.6K
C16 N024 0 4.7µ
C17 N029 0 4.7µ
R11 N013 0 2.94K
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2m startup
* Please read the following notes carefully, since the model presents different user interface than the real part does.\n(1) All PMBus communication and memory address related functions and pins are not modeled. \n(2) Changes to all parameter values during the simulation running will not be in effect, unless the simulation is stopped and restarted. This is different from the operation of the part, which will respond to the commanded changes while running. \n(3) Share_clk is not modeled. The default time reference of LTspice is used as the common time base for all time related parameters. \n(4) The following parameters can be defined, by right-clicking the symbol of LTM4677. Different nomenclature from the datasheet is adopted here. If any value of these parameters are set beyond the scope discribed in the datasheet, the resulting simulation outcomes are not meaningful.\n     VIN_ON & VIN_OFF -- in volts, set the unit start/stop input voltages;\n     Freq -- in Hz, sets switching frequency as one of values of 250K, 350K, 425K, 500K, 575K, 650K, 750K, 1000K. FREQ_CFG pin needs to float (or short to VDD25), to make the value be in effect;\n     PHs_0 & PHs_1 -- in degree,  set phase angle related to SYNC signal. Certain combinations are restricted as in datasheet. FREQ_CFG pin needs to float (or short to VDD25), to make the value be in effect;\n     Ton0_delay & Ton0_rise; Ton1_delay & Ton1_rise -- in sec, set delay and soft-start timers for channel0 and channel1. Initialization time is not modeled;\n     Toff0_delay & Toff0_fall; Toff1_delay & Toff1_fall -- in sec, set delay and soft-off timers for channel0 and channel1;\n     Vout_0 & Vout_1 -- in volt, set output voltages respectively;\n     Vout0_range & Vout1_range -- set maximum output range, with value 0 for 4.096V (CH0) and 5.5V (CH1); value 1 for 2.75V\n     Ilim0_range & Ilim1_range -- set maximum sensed peak current range, with value 0 for low 50mV, and 1 for high 75mV;\n     OC_limit0 & OC_limit1 -- set ratio of peak current limit to the maximum value defined by Ilimit_range. It must be one of values: 0.5, 0.572, 0.642, 0.714, 0.786, 0.858, 0.928, 1;\n     Mode_II -- sets light load operation mode: 0 for discontinuous, 1 for Burst, 2 for forced continuous;\n     Fault_response -- sets the response mode of the unit to occuring faults: 0 for ignore, 1 for latch up, 2 for Hiccup after Retry_delay time;\n     Retry_delay -- in sec, sets the timer before the unit turns on after a fault;
* LTM4677 - Dual 18A or Single 36A µModule Regulator with Digital Power System Management\nLTM4650 - Dual 25A or Single 50A DC/DC µModule Regulator\nHigh Current, Parallel µModule Buck Regulators with Power System Management\nInput: 4.5V to 16V     Output: 1V @186A
* Notes: \n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2016 Linear Technology Inc.  All rights reserved.
.lib LTC4.LIB
.lib LTM4650.sub
.lib LTM4677.sub
.backanno
.end
